***********************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD15571Q2
* Date: 09/24/2013
* Model Type: Transient
* Simulator: PSpice
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS435 - AUGUST 2013
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
 *$
**********************************************************************
**********************************************************************
*                                                                    *
* CSD15571Q2    -  PSpice Model for use with OrCAD                   *
*                                                                    *
**********************************************************************
**********************************************************************
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	9.66E-11	)
+	(	0.5	8.69E-11	)
+	(	1	7.35E-11	)
+	(	1.5	6.59E-11	)
+	(	2	6.09E-11	)
+	(	2.5	5.71E-11	)
+	(	3	5.39E-11	)
+	(	3.5	5.12E-11	)
+	(	4	4.88E-11	)
+	(	4.5	4.67E-11	)
+	(	5	4.49E-11	)
+	(	5.5	4.32E-11	)
+	(	6	4.16E-11	)
+	(	6.5	4.02E-11	)
+	(	7	3.90E-11	)
+	(	7.5	3.78E-11	)
+	(	8	3.67E-11	)
+	(	8.5	3.56E-11	)
+	(	9	3.47E-11	)
+	(	9.5	3.37E-11	)
+	(	10	3.29E-11	)
+	(	10.5	3.20E-11	)
+	(	11	3.12E-11	)
+	(	11.5	3.04E-11	)
+	(	12	2.96E-11	)
+	(	12.5	2.89E-11	)
+	(	13	2.82E-11	)
+	(	13.5	2.75E-11	)
+	(	14	2.68E-11	)
+	(	14.5	2.61E-11	)
+	(	15	2.55E-11	)
+	(	15.5	2.49E-11	)
+	(	16	2.43E-11	)
+	(	16.5	2.38E-11	)
+	(	17	2.32E-11	)
+	(	17.5	2.27E-11	)
+	(	18	2.22E-11	)
+	(	18.5	2.17E-11	)
+	(	19	2.13E-11	)
+	(	19.5	2.08E-11	)
+	(	20	2.04E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	4.23E-10	)
+	(	0.5	3.87E-10	)
+	(	1	3.49E-10	)
+	(	1.5	3.20E-10	)
+	(	2	2.98E-10	)
+	(	2.5	2.80E-10	)
+	(	3	2.65E-10	)
+	(	3.5	2.51E-10	)
+	(	4	2.39E-10	)
+	(	4.5	2.28E-10	)
+	(	5	2.19E-10	)
+	(	5.5	2.10E-10	)
+	(	6	2.01E-10	)
+	(	6.5	1.94E-10	)
+	(	7	1.87E-10	)
+	(	7.5	1.80E-10	)
+	(	8	1.73E-10	)
+	(	8.5	1.67E-10	)
+	(	9	1.61E-10	)
+	(	9.5	1.55E-10	)
+	(	10	1.50E-10	)
+	(	10.5	1.44E-10	)
+	(	11	1.39E-10	)
+	(	11.5	1.34E-10	)
+	(	12	1.30E-10	)
+	(	12.5	1.26E-10	)
+	(	13	1.22E-10	)
+	(	13.5	1.19E-10	)
+	(	14	1.16E-10	)
+	(	14.5	1.14E-10	)
+	(	15	1.11E-10	)
+	(	15.5	1.09E-10	)
+	(	16	1.07E-10	)
+	(	16.5	1.04E-10	)
+	(	17	1.02E-10	)
+	(	17.5	1.01E-10	)
+	(	18	9.89E-11	)
+	(	18.5	9.72E-11	)
+	(	19	9.56E-11	)
+	(	19.5	9.41E-11	)
+	(	20	9.25E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
* SUBCKT Definition:  1=D  2=G  3=S
.SUBCKT CSD15571Q2  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    4.00e-3  
 .PARAM  ptrc2    {10.00e-6*1}
 .PARAM  pwidthP  {0.6884/1.2}
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
DBD   8  7	 DBD
CBD0  8  7   3e-12
RBD0  8  7   1e10
*CGD0  5  7	 100E-12
xcgd	5	10	1	3	cgd
*xcgs	8	5	1	3	cgs
xcds	8	10	1	3	cds
* Note:  gate oxide capacitance included in NMOS below
LGG   2  5	 2.1e-9
RGG   5 11	 4.0
RSB  12  9	 RTEMP 0.02e-3
RSS   9  8 	 RTEMP 0.1e-3
RSP   8  6 	 0.1e-3
LSS   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP 9.65e-3
RDP   4  7	 0.10e-3
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 670
+ UA     = 3.0e-9        UB     = 0.0e-19      A0     = 0.9
+ AGS    = 0.0           A1     = 0.0          A2     = 0.9
+ LINT   = 0.055e-6      VOFF   = -0.40        NFACTOR= 1.7
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 5.00          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 130.00e-12		CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.70
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 00.00e-9
+ UB1    = -0.0e-17      
* PROCESS PARAMETERS
+ TOX    = 3.00e-8       XJ     = 3e-7          NCH    = 1.33e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 25            VTO    = -1.0          IS     = 6.0e-14
+ TOX    = 3.0e-8        NSUB   = 2.0e17		GAMMA  = 0
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
*******************************************************************
.MODEL DBD D (CJO=7e-15 VJ=1.0 M=0.6 TNOM=25
+ FC=0.5 TT=2e-09 XTI=2.5 BV=21
+ IS=2.0e-12 N=1.045 RS=5.5e-3 TRS1=0.0e-3)
.MODEL DD  D (CJO=0.30e-09 VJ=0.9 M=0.9 IS=1e-13 RS=0.1 TNOM=25)
.MODEL DDx D (CJO=0.0001e-09 VJ=0.9 M=0.9 IS=1e-13 RS=1.0 TNOM=25)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS CSD15571Q2
*$