***********************************************************************
**  v1.7.5 PSpice Models Library - TI NexFET Power N/P Channel FET's
*  (C) Copyright 2010 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
* Notice:
* The data and models provided herein are intended to be used by 
* customers as an aid in designing electrical circuits using 
* semiconductor devices manufactured &/or sold by Texas Instruments.
* The models and associated information contained herein are not to
* be construed as a guarantee of electrical performance and/or device 
* specification.  Therefore, Texas Instruments does not assume any 
* liability arising out of the use of said data or models, nor from
* the devices or products manufactured therefrom.  Texas Instruments
* does not convey any license under its patent rights nor the rights
* of others.  Texas Instruments reserves the right to change models 
* without prior notice.  
*
* TI is a registered trademark of Texas Instruments Inc.
*************************************************************************
********************************************************************************
*
* Released by: Analog e-Lab Design Center, Texas Instruments Inc.
* Part: CSD16325Q5
* Date: 12/08/2010
* Model Type: TRANSIENT
* Simulator: PSPICE
* Datasheet: SLPS218C - August 2009 - Revised April 2010
*
*****************************************************************************
*$
**********************************************************************
**********************************************************************
*                                                                    *
* CSD16325Q5   -  PSpice Model for Ciclon Power FET                  *
*                                                                    *
**********************************************************************
**********************************************************************
*      
* SUBCKT Definition:  1=D  2=G  3=S
*
**********************************************************************
.SUBCKT CSD16325Q5  1 2 3
.PARAM  ptrc1  3.10e-3  
.PARAM  ptrc2  1.00e-5
.PARAM  pwidth 3.893868
.PARAM  perim  7.9
M1   10 11 12 12  NMOS	W={pwidth} L=0.4u  PD={perim}  PS={perim}
DBD   8  7	 DBD
CGD0  5  7	 1E-12
CGS0  5  8	 2e-12
CDS0 10 12	 9e-12
M2   12 11 12 10  PMOSd W={pwidth} L=0.075u  PD={perim}  PS={perim}
DDG  14  5	 DD
DGD  14 10	 DD
* Note:  gate oxide capacitance included in NMOS below
CGS   5 13	 625E-12
RGS  13  8	 115
LGG   2  5	 1.45e-9
RGG   5 11	 1.77
RSB  12  9	 RTEMP 0.27E-3
RSS   9  8 	 0.05e-3
RSP   8  6 	 0.30e-3
LSS   6  3	 0.20E-9
RDP   4  7	 0.15e-3
RDD   7 10 	 RTEMP 0.43e-3
LDD   1  4	 0.05E-9
******************************************************************* 
.MODEL  NMOS   NMOS (    LEVEL  = 7             Version = 3.2
+ TNOM   = 27            LINT   = 0.055e-6      CAPMOD = 2
+ TOX    = 1.80e-8       NCH    = 1.567e17      NSUB   = 1.0e16
+ AGS    = 0.0           PVAG   = 0.5
+ A0     = 1.00          A1     = 0.0           A2     = 1.0
+ UA     = 3.4e-9        UB     = 2.0e-18       VBM    = -5.0
+ UA1    = 3.9e-9        UB1    = -0.5e-18      UTE    = -1.50
+ KT1    = -0.58         KT2    = 0.022         KT1L   = 1.0e-12
+ DVT0   = 2.3           DVT1   = 0.55	        DVT2   = -0.033
+ ETA0   = 0.045         ETAB   = -0.07         XJ     = 4e-7
+ PDIBLC1= 0.08          PDIBLC2= 0.006         NLX    = 1.80e-7
+ PSCBE1 = 8.0e8         PSCBE2 = 1e-7          PCLM   = 1.3
+ VOFF   = -0.21         NFACTOR= 2.3           JS     = 0
+ DROUT  = 1.30          DSUB   = 1.5           DELTA  = 0.005
+ CJ     = 1e-18         CJSW   = 1e-18         CF     = 0
+ CGSO   = 215.5e-12     CGDO   = 1e-12         CGBO   = 0    )
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 7             Version = 3.2
+ TNOM   = 27            CAPMOD = 2         
+ JS     = 0             VBM    = -10   
+ TOX    = 3.0e-8        NCH    = 1.6e17        NSUB   = 5e16
+ CJ     = 1e-18         CJSW   = 1e-18         CF = 0
+ CGSO   = 0             CGDO   = 0             CGBO   = 0 )
******************************************************************* 
.MODEL DBD D (CJO=6665e-12 VJ=1.0 M=0.46 FC=0.5 TT=5e-09 TNOM=27
+ IS=3.6e-12 N=1.01  RS=3.25e-4 TRS1=5.5e-3 XTI=3.1 BV=27)
.MODEL DD  D (CJO=300e-12 VJ=0.87 M=0.75 IS=1e-12 RS=1e-3 TNOM=27)
******************************************************************* 
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
******************************************************************* 
.ENDS CSD16325Q5
